US08735379B2
To a solution of (4Z,7Z,10Z,13Z,16Z,19Z)—N-(1-aminopropan-2-yl)docosa-4,7,10,13,16,19-hexaenamide (1.60 g, 4.2 mmol), 2-hydroxybenzoic acid (0.57 g, 4.2 mmol) and imidazole (0.29 g, 4.2 mmol) in EA (40 mL) at 0° C. was added a solution of DCC (0.87 g, 4.2 mmol) in EA (40 mL). The mixture was allowed to warm to RT, stirred (16 h) and filtered. The solvent was removed under reduced pressure and the crude product was purified by chromatography on silica gel, eluting with EA-PE (0-50%) to afford N-(2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidopropyl)-2-hydroxybenzamide (1.07 g, 50.5%) as a light yellow oil. Mass calculated for C32H44N2O3=504.70. found: [M+H]+=505.5.

reactant | (4Z,7Z,10Z,13Z,16Z,19Z)—N-(1-aminopropan-2-yl)docosa-4,7,10,13,16,19-hexaenamide | 4.2 mmol, 1.60 g | NCC(C)NC(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)=O | C25H40N2O
reactant | 2-hydroxybenzoic acid | 4.2 mmol, 0.57 g | OC1=C(C(=O)O)C=CC=C1 | C7H6O3
reactant | imidazole | 4.2 mmol, 0.29 g | N1C=NC=C1 | C3H4N2
reactant | DCC | 4.2 mmol, 0.87 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | EA | 40 mL | CC(OCC)=O | C4H8O2
solvent | EA | 40 mL | CC(OCC)=O | C4H8O2
product | N-(2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidopropyl)-2-hydroxybenzamide | 1.07 g, 50.5% | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)NC(CNC(C1=C(C=CC=C1)O)=O)C | C32H44N2O3
